US05378690
t-Butyl 5-(N-benzyl-N-methylamino)-4-hydroxy-2-(1-naphthylmethyl)pentanoate
2.39 g (7.65 mmole) of t-butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate (prepared as described in Preparation 11) were reacted with 1.39 g (11.5 mmole) of N-methylbenzylamine in 20 ml of methanol for 2 days. At the end of this time, the reaction mixture was concentrated by evaporation underreduced pressure, and the residue was purified by column chromatography through silica gel (eluent: a 5: 95 by volume mixture of methanol and methylene chloride), to afford 3.13 g of the title compound as a pale brown oil.

reactant | t-butyl 4,5-epoxy-2-(1-naphthylmethyl)pentanoate | 7.65 mmole, 2.39 g | O1C(CC(C(=O)OC(C)(C)C)CC2=CC=CC3=CC=CC=C23)C1 | C20H24O3
reactant | N-methylbenzylamine | 11.5 mmole, 1.39 g | CNCC1=CC=CC=C1 | C8H11N
solvent | methanol | 20 ml | CO | CH4O
product | t-Butyl 5-(N-benzyl-N-methylamino)-4-hydroxy-2-(1-naphthylmethyl)pentanoate | 3.13 g | C(C1=CC=CC=C1)N(C)CC(CC(C(=O)OC(C)(C)C)CC1=CC=CC2=CC=CC=C12)O | C28H35NO3
